US08735385B2
2-[4-(4-Azetidin-1-yl-cyclohexyl)-2-fluoro-phenyl]-2,8-diaza-spiro[4.5]decan-1-one hydrochloride
The title compound was prepared in the same manner as Example 17 by using hydrochloric acid in dioxane to hydrolyze 2-[4-(4-azetidin-1-yl-cyclohexyl)-2-fluoro-phenyl]-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester

reactant | hydrochloric acid | Cl | ClH
reactant | 2-[4-(4-azetidin-1-yl-cyclohexyl)-2-fluoro-phenyl]-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CCN(C2=O)C2=C(C=C(C=C2)C2CCC(CC2)N2CCC2)F)CC1 | C28H40FN3O3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[4-(4-Azetidin-1-yl-cyclohexyl)-2-fluoro-phenyl]-2,8-diaza-spiro[4.5]decan-1-one hydrochloride | Cl.N1(CCC1)C1CCC(CC1)C1=CC(=C(C=C1)N1C(C2(CC1)CCNCC2)=O)F | InChI=1S/C23H32FN3O.ClH/c24-20-16-18(17-2-5-19(6-3-17)26-13-1-14-26)4-7-21(20)27-15-10-23(22(27)28)8-11-25-12-9-23;/h4,7,16-17,19,25H,1-3,5-6,8-15H2;1H
